US07456315B2
3,5-dichloro-4-fluorobenzoyl chloride can be prepared as follows: To a round bottom flask with nitrogen purge through a 10% aqueous NaOH trap, was added 3,5-dichloro-4-flurobenzotriflouride (5.00 g, 21.46 mmol, Aldrich), concentrated sulfuric acid (4.30 g, 42.92 mmol), and finally chlorosulfonic acid (5.15 g, 43.78 mmol). The reaction began to bubble immediately. After the bubbling subsided, the mixture was heated to 80° C. for 1 hr, cooled to room temperature, and added cautiously to stirred ice water. This was extracted twice with methylene chloride. The combined extracts were washed with water and brine, dried over magnesium sulfate, filtered, and evaporated to give a white solid (2.19 g) of 3,5-dichloro-4-fluorobenzoic acid in 49% yield. 1H-NMR (CD3COCD3, 300 MHz) δ (ppm): 7.95 (d, 2H).

reactant | 3,5-dichloro-4-fluorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1F)Cl | C7H2Cl3FO
reactant | 3,5-dichloro-4-flurobenzotriflouride | 21.46 mmol, 5.00 g | ClC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H2Cl2F4
reactant | sulfuric acid | 42.92 mmol, 4.30 g | S(O)(O)(=O)=O | H2O4S
reactant | chlorosulfonic acid | 43.78 mmol, 5.15 g | ClS(=O)(=O)O | ClHO3S
product | 3,5-dichloro-4-fluorobenzoic acid | 2.19 g, 49% yield | ClC=1C=C(C(=O)O)C=C(C1F)Cl | C7H3Cl2FO2
